US05702887
treating 3,5-dimethyl-4-hydroxybenzoic acid with N-hydroxysuccinimide and 1,3-dicyclohexylcarbodiimide to produce succinimidyl 3,5-dimethyl-4-hydroxybenzoate;

reactant | 3,5-dimethyl-4-hydroxybenzoic acid | CC=1C=C(C(=O)O)C=C(C1O)C | C9H10O3
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | succinimidyl 3,5-dimethyl-4-hydroxybenzoate | CC=1C=C(C(=O)ON2C(CCC2=O)=O)C=C(C1O)C | C13H13NO5
